US07435833B2
5-(tert-Butyl-dimethyl-silanyloxy)-cyclooctanol
Sodium bis(trimethylsilyl)amide (76.27 mL, 1 M in tetrahydrofuran, 76.27 mmol) was added drop wise to a stirred and cooled (0° C.) solution of cyclooctane-1,5-diol (10 g, 69.34 mmol) in dry tetrahydrofuran (120 mL). After the addition, the resulting solution was warmed to room temperature and stirred for another thirty minutes. The solution was re-cooled (0° C.) and a solution of tert-butyl-chloro-dimethyl-silane (10.45 g, 69.34 mmol) in tetrahydrofuran (20 mL) was added drop wise. The solution was then warmed to room temperature and stirred overnight before an NH4Cl solution was added. The mixture was partitioned with diethyl ether, and the organic phase was washed with brine, dried (MgSO4), filtered, and evaporated. The residue was purified over silica gel using 2-40% ethyl acetate in hexanes to provide the title compound as an oil.

reactant | Sodium bis(trimethylsilyl)amide | 76.27 mmol, 1 M, 76.27 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | cyclooctane-1,5-diol | 69.34 mmol, 10 g | C1(CCCC(CCC1)O)O | C8H16O2
reactant | tert-butyl-chloro-dimethyl-silane | 69.34 mmol, 10.45 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 5-(tert-Butyl-dimethyl-silanyloxy)-cyclooctanol | C(C)(C)(C)[Si](OC1CCCC(CCC1)O)(C)C | C14H30O2Si
